US05760259
Ethyl 2-ethoxycarbonyl-8-benzyloxyoctanoate was prepared from 6-benzyloxyhexyl bromide (3.52 g, 13 mmol) and diethyl malonate (2.29 g, 14 mmol) according to the general procedure given above. Yield 60%, bp 152°-158° C./0.15 torr. 1H-NMR: 1.24 (t, 6H), 1.2-1.9 (m, 10H), 3.43 (t, 2H), 4.18 (q, 4H), 4.45 (s, 2H), 7.27 (m, 5H).

reactant | 6-benzyloxyhexyl bromide | 13 mmol, 3.52 g | C(C1=CC=CC=C1)OCCCCCCBr | C13H19BrO
reactant | diethyl malonate | 14 mmol, 2.29 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
product | Ethyl 2-ethoxycarbonyl-8-benzyloxyoctanoate | Yield 60% | C(C)OC(=O)C(C(=O)OCC)CCCCCCOCC1=CC=CC=C1 | C20H30O5
